US05747498
(6,7-Diethoxy-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride
6,7-Diethoxyquinazolin-4-one (120 mg, 0.512 mmol), triphenylphosphine (295 mg, 1.126 mmol) and 3 mL of carbon tetrachloride were refluxed for 16 hours. The reaction mixture was concentrated in vacuo to a residue which was diluted with 3 mL of isopropyl alcohol and 3-ethynylaniline (66 mg, 0.563 mmol) and refluxed for 3 hours. The cooled reaction mixture was filtered to afford solid title product which was washed with 10 mL of isopropyl alcohol and dried in vacuo at 70° C., 140 mg (75%); mp 269°-270° C.

reactant | 6,7-Diethoxyquinazolin-4-one | 0.512 mmol, 120 mg | C(C)OC=1C=C2C(NC=NC2=CC1OCC)=O | C12H14N2O3
reactant | triphenylphosphine | 1.126 mmol, 295 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-ethynylaniline | 0.563 mmol, 66 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropyl alcohol | 3 mL | C(C)(C)O | C3H8O
product | (6,7-Diethoxy-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride | Cl.C(C)OC=1C=C2C(=NC=NC2=CC1OCC)NC1=CC(=CC=C1)C#C | InChI=1S/C20H19N3O2.ClH/c1-4-14-8-7-9-15(10-14)23-20-16-11-18(24-5-2)19(25-6-3)12-17(16)21-13-22-20;/h1,7-13H,5-6H2,2-3H3,(H,21,22,23);1H
